US04511391
1-(2,3-Dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)but-1-en-3-one was prepared from 2,3-dihydro-4,5,6-trimethylbenzo[b]furan-7-carboxaldehyde and acetone following essentially the same procedure as that described in Example 1 part (i), and was obtained as a pale brown solid, mp 116° C.

reactant | 2,3-dihydro-4,5,6-trimethylbenzo[b]furan-7-carboxaldehyde | CC1=C(C(=C(C=2OCCC21)C=O)C)C | C12H14O2
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,3-Dihydro-4,5,6-trimethylbenzo[b]furan-7-yl)but-1-en-3-one | CC1=C(C(=C(C=2OCCC21)C=CC(C)=O)C)C | C15H18O2
